Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain 
 
Major Surgical or Invasive Procedure:
Cardiac cath with drug eluting stent placement

 
History of Present Illness:
___ w/ history of HTN, HLD presenting with exertional chest 
pain. 

He reports that this morning at 11AM he was shoveling snow for 
15 minutes and began having non-radiating substernal chest pain 
with diaphoresis and nausea. No SOB, palpitations, emesis, 
dizziness or lightheadedness, orthopnea. He has never had chest 
pain like this before. Pain did not significantly change with 
rest, relates pain to similar to indigestion.  

He was taken to urgent care when initial EKG reportedly did not 
show ischemic changes and referred to the ED. In the ED, he 
reported continued chest discomfort (___) without shortness of 
breath. He received NTG without improvement in his pain

 In the ED initial vitals were: 99.3 91 151/86 18 99% RA  
 Labs/studies notable for:  
 - 134 | 96 | 13 
   -------------< 137
   4.3 | 23 | .8
 - PTT 31
 - Trop 0.40
 - 13.9 > 16.3/47.9 <234

 Patient was given:  NTG, heparin gtt. Received ASA 324 earlier
 Vitals on transfer:  
 On the floor, denies chest pain. Reports some left sided aching 
(___). 

 
Past Medical History:
 1. CARDIAC RISK FACTORS  
 - Hypertension  
 - Dyslipidemia 
 - Prediabetes 
 2. CARDIAC HISTORY  
 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: None  
 - PACING/ICD: None  
 3. OTHER PAST MEDICAL HISTORY  
 - Colonic adenoma
 - Impotence 
 - Plantar fasciitis 
 - Left index finger amputation ___ to table saw injury 
 
Social History:
___
Family History:
Father ___ at age ___ Intracranial hemorrhage (?subdural 
hematoma) after MVC, complicated hospitalization 
Mother ___ at age ___ Alzheimer's 
Paternal Uncle  CAD/PVD, MI at < ___ yo 
 
Physical Exam:
Admission exam
 VS: 98.7 128/76 76 16 96% RA 
 GENERAL: WDWN male in NAD. Oriented x3. Mood, affect 
appropriate.  
 HEENT: NCAT. PERRL, EOMI.   
 NECK: Supple with JVP of difficult to visualize  
 CARDIAC:  RR, normal S1, S2. No murmurs/rubs/gallops.
 LUNGS: CTAB No crackles, wheezes or rhonchi.  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: Trace b/l ___ edema. Left index finger with distal 
amputation  

Discharge exam:
 Vitals:  98.6 kg BP 113-131/62-70 62-70 bpm  96% RA
 Weight:  127.1 kg
 GENERAL: WDWN male in NAD. Oriented x3. Mood, affect 
appropriate.  
 HEENT: NCAT. PERRL, EOMI.   
 NECK: Supple, flat JVP 
 CARDIAC:  RR, normal S1, S2. No murmurs/rubs/gallops.
 LUNGS: CTAB No crackles, wheezes or rhonchi.  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: Trace b/l ___ edema. Left index finger with distal 
amputation  
 
Pertinent Results:
Admission labs
___ 04:00PM BLOOD WBC-13.9* RBC-5.45 Hgb-16.3 Hct-47.9 
MCV-88 MCH-29.9 MCHC-34.0 RDW-13.1 RDWSD-41.8 Plt ___
___ 04:00PM BLOOD Neuts-81.3* Lymphs-13.2* Monos-4.5* 
Eos-0.2* Baso-0.4 Im ___ AbsNeut-11.29* AbsLymp-1.83 
AbsMono-0.63 AbsEos-0.03* AbsBaso-0.06
___ 04:16PM BLOOD ___ PTT-31.0 ___
___ 04:00PM BLOOD Glucose-137* UreaN-13 Creat-0.8 Na-134 
K-4.3 Cl-96 HCO3-23 AnGap-19
___ 04:00PM BLOOD cTropnT-0.40*
___ 06:15AM BLOOD Calcium-9.2 Phos-2.9 Mg-1.9

Discharge labs
___ 06:35AM BLOOD WBC-10.5* RBC-4.91 Hgb-14.7 Hct-44.2 
MCV-90 MCH-29.9 MCHC-33.3 RDW-13.2 RDWSD-43.3 Plt ___
___ 06:35AM BLOOD ___ PTT-27.5 ___
___ 06:35AM BLOOD Glucose-108* UreaN-11 Creat-0.8 Na-136 
K-4.6 Cl-99 HCO3-27 AnGap-15
___ 06:35AM BLOOD cTropnT-1.30*
___ 06:35AM BLOOD Calcium-9.0 Phos-2.9 Mg-2.0

Imaging
___ Cardiac cath
Intra-procedural Complications: None
Impressions:
3 vessel CAD.
Successful PTCA/stent of LAD using drug eluting stent and POBA 
of D1 origin.
Recommendations
ASA 81mg QD indefinitely. Plavix 75mg QD for minimum 12 months.
Further management as per primary cardiology team.
Needs aggressive secondary prevention.
Consider outpatient ETT to evaluate significance of OM1 
stenosis.

___ TTE
The left atrial volume index is normal. There is mild symmetric 
left ventricular hypertrophy with normal cavity size. There is 
mild regional left ventricular systolic dysfunction with focal 
hypokinesis of the distal inferior wall (distal LAD territory). 
The remaining segments contract normally (LVEF = 55-60%). Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. The pulmonary artery systolic 
pressure could not be determined. There is no pericardial 
effusion. There is an anterior space which most likely 
represents a prominent fat pad. 
IMPRESSION: Very mild regional left ventricular systolic 
dysfunction, c/w CAD. 

___ CXR
No acute cardiopulmonary abnormality. 
 
Brief Hospital Course:
Summary
___ w/ history of HTN, HLD presenting with exertional chest pain 
with elevated troponins and T wave flattening in I, avl, AVF 
consistent with NSTEMI. He underwent right radial artery cardiac 
catherization with drug eluting stent placement to his LAD and 
POBA to D1. He did well post procedure and was discharged home 
in good condition. 

Acute issues
#NSTEMI: Presented with exertional chest pain. EKG without 
ischemic changes except T wave flattening in I, aVL, aVF on 
presentation. Trop peaked at 1.3 on ___. Cardiac catherization 
significant for 3VD with DES to LAD and POBA of D1 and stenosis 
of first marginal with spasm to distal LAD resolved with NTG IC. 
He was continued on aspirin and started on atorvastatin 80mg, 
clopidogrel for at least 12 months and metoprolol succinate 50mg 
daily. He will follow with his PCP who will refer him to 
cardiology at ___. Following this, he should be considered 
for cardiac rehab. 

Chronic issues
#HTN: Continued home lisinopril, well controlled during 
admission. 

#INSOMNIA: Held home ambien, and started ramelteon while in 
house. 

Transitional issues:
- Clopidogrel was started for drug eluting stent placement and 
should be continued for at least 12 months or until stopped by 
outpatient cardiology. 
- Atorastatin 80mg and metoprolol succinate 50mg was started and 
can be titrated as an outpatient. 
- He will follow with PCP for cardiology referral and 
consideration of cardiac rehab. 

 # CODE:  Full (confirmed) 
 # CONTACT:  ___ HCP/wife  Phone: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Zolpidem Tartrate 10 mg PO QHS 
3. Lisinopril 20 mg PO DAILY 
4. Vitamin E 1000 UNIT PO DAILY 
5. Vitamin D 3000 UNIT PO DAILY 
6. Fish Oil (Omega 3) Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth nightly Disp #*30 
Tablet Refills:*0 
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*1 
3.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
4.  Fish Oil (Omega 3) 1000 mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Lisinopril 20 mg PO DAILY  
7.  Vitamin D 3000 UNIT PO DAILY  
8.  Vitamin E 1000 UNIT PO DAILY  
9.  Zolpidem Tartrate 10 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: NSTEMI s/p cardiac cath with stent placement

Secondary: HTN, HLD, Insomnia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came to ___ with chest pain and were found to have a 
blovked artery in your heart. We placed a stent to keep it open 
and started you on some new medications. Please followup with 
your PCP. 

It was a pleasure taking care of you, best of luck. 
Your ___ medical team
 
Followup Instructions:
___